US05439925
(a) Allyl 4-[3-tert-butyl-4-(tert-butyldimethylsilyloxy) benzoyloxymethyl]benzoate
In a manner similar to Example 1(d), by reaction of 4.9 g (15 mmol) of 3-tert-butyl-4-(tert-butyldimethylsilyloxy)benzoyl chloride with 2.9 g (15 mmol) of allyl 4-hydroxymethylbenzoate, 4.1 g (60%) of the allyl ester are obtained in the form of a slightly yellow oil.

reactant | 3-tert-butyl-4-(tert-butyldimethylsilyloxy)benzoyl chloride | 15 mmol, 4.9 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1O[Si](C)(C)C(C)(C)C | C17H27ClO2Si
reactant | allyl 4-hydroxymethylbenzoate | 15 mmol, 2.9 g | OCC1=CC=C(C(=O)OCC=C)C=C1 | C11H12O3
product | Allyl 4-[3-tert-butyl-4-(tert-butyldimethylsilyloxy) benzoyloxymethyl]benzoate | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(C(=O)OCC=C)C=C2)C=CC1O[Si](C)(C)C(C)(C)C | C28H38O5Si
